US07091345B2
l) 7-Nitro-4-methyl-4H-benzo[1,4]thiazine
7 g 7-Nitro-4-methyl-4H-benzo[1,4]thiazin-3-one (from j)) in 10 ml THF were treated dropwise with 67.57 ml 2M borane dimethyl sulfide complex in THF at room temperature. After 16 hrs the mixture was poured into saturated aqueous sodium bicarbonate and extracted with ethyl acetate. The solvent was evaporated and the solid residue triturated with ether.

reactant | 7-Nitro-4-methyl-4H-benzo[1,4]thiazin-3-one | 7 g | [N+](=O)([O-])C1=CC2=C(N(C(CS2)=O)C)C=C1 | C9H8N2O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 7-Nitro-4-methyl-4H-benzo[1,4]thiazine | [N+](=O)([O-])C1=CC2=C(N(C=CS2)C)C=C1 | C9H8N2O2S
